US05824670
4-Benzyloxyphenylacetic acid;
4-(2-methoxybenzyloxy)phenylacetic acid; 4-(4-fluorobenzyloxy)phenylacetic acids; 2-(thiazol-4-yl)acetic acid; 2-(thiazol-4-yl)-2-methoxyiminoacetic acid;

reactant | 4-(2-methoxybenzyloxy)phenylacetic acid | COC1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C16H16O4
reactant | 2-(thiazol-4-yl)acetic acid | S1C=NC(=C1)CC(=O)O | C5H5NO2S
reactant | 2-(thiazol-4-yl)-2-methoxyiminoacetic acid | S1C=NC(=C1)C(C(=O)O)=NOC | C6H6N2O3S
product | 4-Benzyloxyphenylacetic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
